US07622583B2
To a solution of 2-chloro-N-methoxy-N-methyl-5-pyrazol-1-yl-benzamide (280 mg, 1.05 mmol) was added DIBAL-H (1.16 mL, 1.16 mmol) slowly at −78° C. T he reaction was stirred 2 h, quenched with water, extracted with ether, concentrated, and purified by flash chromatography to give 2-chloro-5-pyrazol-1-yl-benzaldehyde.

reactant | 2-chloro-N-methoxy-N-methyl-5-pyrazol-1-yl-benzamide | 1.05 mmol, 280 mg | ClC1=C(C(=O)N(C)OC)C=C(C=C1)N1N=CC=C1 | C12H12ClN3O2
reactant | DIBAL-H | 1.16 mmol, 1.16 mL | CC(C)C[AlH]CC(C)C
product | 2-chloro-5-pyrazol-1-yl-benzaldehyde | ClC1=C(C=O)C=C(C=C1)N1N=CC=C1 | C10H7ClN2O
